US07772271B2
A mixture of 6-amino-1-cyclobutyl-3-cyanoindole (4.60 g, 21.8 mmol), bromoethylether (6.07 g, 26.16 mmol), DIEA (10.79 mL, 65.4 mmol) in DMF (100 mL) was stirred at 90° C. overnight and then poured into ice-water (1.0 L). The precipitate was filtered, washed with water, and purified on silica gel (CH2Cl2/EtOAc, 9:1) to provide 1-cyclobutyl-6-morpholin-4-yl-1H-indole-3-carbonitrile (5.24 g, 85%).

reactant | 6-amino-1-cyclobutyl-3-cyanoindole | 21.8 mmol, 4.60 g | NC1=CC=C2C(=CN(C2=C1)C1CCC1)C#N | C13H13N3
reactant | bromoethylether | 26.16 mmol, 6.07 g | BrCCOCCBr | C4H8Br2O
reactant | DIEA | 65.4 mmol, 10.79 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-cyclobutyl-6-morpholin-4-yl-1H-indole-3-carbonitrile | 5.24 g, 85% | C1(CCC1)N1C=C(C2=CC=C(C=C12)N1CCOCC1)C#N | C17H19N3O
